US03983119
Preparation of 2-Chloro-3-carbethoxymethyl-5-methyl-3,4-dihydroquinazoline hydrochloride (XVc).
A mixture of 2.45 g (10 mmole) of 5-methyl-3-carbethoxymethyl- 1,2,3,4-tetrahydroquinazolin-2-one and 20 ml of phosphorus oxychloride was immersed in an oil bath (105°-110°) for 3.5 hr. The solution was cooled, the excess phosphorus oxychloride removed under aspirator pressure and the residue dissolved in chloroform (50 ml). Ice water was added, the mixture shaken and 40% sodium hydroxide was added dropwise to attain a pH=6. The above process was repeated until a pH=6 was maintained after shaking, the chloroform extract was separated, dried (Na2SO4) and the solvent removed in vacuo. The residue was dissolved in ethyl acetate (100 ml), the solution saturated with hydrogen chloride gas and the mixture heated to gentle boiling for 10 mins. The mixture was filtered while hot and the precipitate dried yielding 2.11 g (70% yield) of a pale yellow powder. Purification was effected by crystallization from acetonitrile; mp 199-201.

reactant | 5-methyl-3-carbethoxymethyl- 1,2,3,4-tetrahydroquinazolin-2-one | 10 mmole, 2.45 g | CC1=C2CN(C(NC2=CC=C1)=O)CC(=O)OCC | C13H16N2O3
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-3-carbethoxymethyl-5-methyl-3,4-dihydroquinazoline hydrochloride | 2.11 g, 70% yield | Cl.ClC1=NC2=CC=CC(=C2CN1CC(=O)OCC)C | InChI=1S/C13H15ClN2O2.ClH/c1-3-18-12(17)8-16-7-10-9(2)5-4-6-11(10)15-13(16)14;/h4-6H,3,7-8H2,1-2H3;1H
